US08242104B2
8-Bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene (1.0 g, 2.7 mmol), glycine (2.0 g, 27 mmol), copper (I) iodide (0.2 g, 1.08 mmol), trans-4-hydroxy-(L)-proline (0.14 g, 1.08 mmol) and potassium phosphate (1.14 g, 5.4 mmol) in DMSO (10 mL) were heated under nitrogen at 80° C. for 18 h. The reaction mixture was cooled to RT, concentrated in vacuo, loaded onto an SCX-2 cartridge, washed with methanol and eluted with 2M ammonia in methanol. Basic fractions were combined and concentrated in vacuo and the resultant residue was subjected to flash chromatography (SiO2, gradient 0 to 10% methanol in DCM) to give [2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino]-acetic acid methyl ester (0.407 g, 39% total). 1H NMR 400 MHz (CDCl3) δ: 8.32 (1H, d, J=8.78 Hz), 7.55 (1H, s), 7.26 (1H, s), 6.46 (1H, dd, J=8.79, 2.45 Hz), 6.18 (1H, d, J=2.42 Hz), 6.00 (1H, m), 4.46-4.45 (2H, m), 4.41-4.35 (2H, m), 3.94 (2H, d, J=5.39 Hz), 3.80 (3H, s), 1.59 (6H, t, J=6.88 Hz).

reactant | 8-Bromo-2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene | 2.7 mmol, 1.0 g | BrC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1 | C16H16BrN5O
reactant | glycine | 27 mmol, 2.0 g | NCC(=O)O | C2H5NO2
reactant | trans-4-hydroxy-(L)-proline | 1.08 mmol, 0.14 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | potassium phosphate | 5.4 mmol, 1.14 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 1.08 mmol, 0.2 g | [Cu]I
product | [2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-ylamino]-acetic acid methyl ester | 0.407 g, 39% | COC(CNC1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)=O | C19H22N6O3
